US07435837B2
Treatment of 2-tert-butyl-4-chlorophenol (12.73 g, 0.070 mol) with allyl bromide (10.01 g, 0.083 mol) and potassium carbonate (38.11 g, 0.276 mol) followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 gave 2-allyl-6-tert-butyl-4-chlorophenol. Treatment of the phenol with 3-chloroperoxybenzoic acid (35.90 g, 0.146 mol, 77%) followed by potassium carbonate (28.18 g, 0.204 mol) generally according to the procedure described for Intermediate 9 provided (±)-(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methanol. Treatment of the alcohol with with p-toluenesulfonyl chloride (10.27 g, 0.054 mol) generally according to the procedure described for Intermediate 10 afforded 13.84 g (51%) (±)-(7-tert-butyl-5-chloro-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 74-77° C.; Anal. calcd. for C20H23ClO4S C, 60.83; H, 5.87. Found C, 60.79; H, 5.80.

reactant | 2-tert-butyl-4-chlorophenol | 0.070 mol, 12.73 g | C(C)(C)(C)C1=C(C=CC(=C1)Cl)O | C10H13ClO
reactant | allyl bromide | 0.083 mol, 10.01 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.276 mol, 38.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl ether | C(C=C)OCC=C | C6H10O
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-allyl-6-tert-butyl-4-chlorophenol | C(C=C)C1=C(C(=CC(=C1)Cl)C(C)(C)C)O | C13H17ClO
